US08440662B2
Step 6: 7-Bromo-2-chloro-6-fluoro-4-morpholin-4-yl-quinazoline
To an ice cold solution of 7-bromo-2,4-dichloro-6-fluoro-quinazoline (0.35 g, 0.001178 mol) in DCM (15 mL), morpholine (0.247 mL, 2.946 mol) was slowly added and the reaction was continued for 20 min. The reaction mixture was diluted with DCM and washed with water. The organic layer was dried over sodium sulfate and evaporated to get the crude. The crude was purified using column chromatography (60-120 silica gel, 30% ethyl acetate in hexane) to get the title compound (220 mg, 57%). 1H NMR (300 MHz, DMSO-d6): δ 8.16 (d, J=6.6 Hz, 1H), 8.01 (d, J=9.6 Hz, 1H), 3.83-3.86 (m, 4H), 3.76-3.73 (m, 4H); LC-MS (ESI): Calculated mass: 344.9; Observed mass: 347.8 [M+H]+ (RT: 1.70 min).

reactant | 7-bromo-2,4-dichloro-6-fluoro-quinazoline | 0.001178 mol, 0.35 g | BrC1=C(C=C2C(=NC(=NC2=C1)Cl)Cl)F | C8H2BrCl2FN2
reactant | morpholine | 2.946 mol, 0.247 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-2-chloro-6-fluoro-4-morpholin-4-yl-quinazoline | 220 mg, 57% | BrC1=C(C=C2C(=NC(=NC2=C1)Cl)N1CCOCC1)F | C12H10BrClFN3O
